US06579983B1
5-Cyano-4-[2-(3-(R)-dimethylaminopyrrolidin-1-yl)pyridin-5-yl]-N-(indazol-5-yl)pyrimidine-2-amine
4-(2-Chloropyridin-5-yl)-5-cyano-N-(indazol-5-yl)pyrimidine-2-amine (522 mg, 1.5 mmol) and 3-(R)-dimethylaminopyrrolidine were heated together at 140° in a sealed flask for 2 h. On cooling the reaction mixture was triturated with water to give a brown solid which was collected and subjected to column chromatography (silica gel; 1% triethylamine-10% methanol-89% dichloromethane) to give the title compound (417 mg) as a yellow solid m.p.249-250°. δH (d6DMSO) 13.00 (1H, br s), 10.32 (1H, s), 8.81 (2H, d, J 9.2 Hz), 8.15-8.12 (2H, m), 8.04 (1H, s), 7.59 (1H, m), 7.52 (1H, d, J 9.8 Hz), 6.63 (1H, d, J 9.0 Hz), 3.77-3.67 (2H, m), 3.41-3.24 (2H, m), 2.82 (1H, br m), 2.22 (6H, s), 2.21 (1H, m) and 1.84 (1H, m).

reactant | 4-(2-Chloropyridin-5-yl)-5-cyano-N-(indazol-5-yl)pyrimidine-2-amine | 1.5 mmol, 522 mg | ClC1=NC=C(C=C1)C1=NC(=NC=C1C#N)NC=1C=C2C=NNC2=CC1 | C17H10ClN7
reactant | 3-(R)-dimethylaminopyrrolidine | CN([C@H]1CNCC1)C | C6H14N2
product | 5-Cyano-4-[2-(3-(R)-dimethylaminopyrrolidin-1-yl)pyridin-5-yl]-N-(indazol-5-yl)pyrimidine-2-amine | 417 mg | C(#N)C=1C(=NC(=NC1)NC=1C=C2C=NNC2=CC1)C=1C=CC(=NC1)N1C[C@@H](CC1)N(C)C | C23H23N9
